US07202245B2
2-(Pyridin-2-yloxy)-ethylamine
A mixture of 500 mg of 2-aminoethanol and 328 mg of 60% sodium hydride-mineral oil dispersion in dioxane (27 mL) was heated to reflux for 30 min. After cooling to room temperature, 930 mg of 2-chloropyridine was added and the mixture was warmed to reflux and maintained at this temperature for 18 hrs. The reaction mixture was concentrated, diluted with water, and extracted with chloroform (3×). The organic extracts were washed with saturated brine, dried over sodium sulfate, filtered, concentrated, and the residue was purified by silica gel chromatography to give the title product as a yellow oily material. MS (M+H)+=138.9.

reactant | 2-aminoethanol | 500 mg | NCCO | C2H7NO
reactant | sodium hydride | 328 mg | [H-].[Na+]
reactant | 2-chloropyridine | 930 mg | ClC1=NC=CC=C1 | C5H4ClN
solvent | dioxane | 27 mL | O1CCOCC1 | C4H8O2
product | 2-(Pyridin-2-yloxy)-ethylamine | N1=C(C=CC=C1)OCCN | C7H10N2O
